** sch_path: /foss/designs/belajar/paper/opamp/opamp.sch
.subckt opamp VDD VP VN IBIAS VSS OUT
*.PININFO VDD:B VP:I VN:I IBIAS:I VSS:B OUT:O
XM1 net2 net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1.25 W=75.2 nf=1 m=1
XM2 net1 net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1.25 W=75.2 nf=1 m=1
XM5 net2 VN net3 VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=38 nf=1 m=1
XM6 net1 VP net3 VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=38 nf=1 m=1
XM23 net3 IBIAS VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1.25 W=60 nf=1 m=1
XM24 IBIAS IBIAS VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1.25 W=60 nf=1 m=1
XM27 OUT net2 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1.25 W=160 nf=1 m=1
XM28 OUT IBIAS VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=1.25 W=60 nf=1 m=1
XC1 net4 net2 sky130_fd_pr__cap_mim_m3_1 W=25 L=25 m=1
XM29 OUT VSS net4 VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.9 W=20 nf=1 m=1
.ends
