* NGSPICE file created from serpentine259k.ext - technology: sky130A

.subckt serpentine259k A VSS B
X0 A B VSS sky130_fd_pr__res_xhigh_po w=5 l=640.15997
C0 B VSS 2.3062f
C1 A VSS 2.3062f
.ends

